US07799822B2
Prepared using general procedure 37. Under an N2 atmosphere, a mixture of the 4-(1-(2,2,2-trifluoroacetyl)pyrrolidin-2-yl)benzene-1-sulfonyl chloride (1.1 g, 5.8 mmol), 2-aminothiazole (0.58 g, 5.8 mmol), and pyridine (4.0 mL) was stirred at RT for 19 h. The crude product was purified via silica gel chromatography using 3% MeOH in CH2Cl2. The resulting oil was taken up in a 2:1 mixture of CH2Cl2:Et2O (12 mL) and cooled to 0° C. for 20 minutes. The formed precipitate was filtered off and dried under vacuum to obtain N-(thiazol-2-yl)-4-(1-(2,2,2-trifluoroacetyl)pyrrolidin-2-yl)benzene-sulfonamide as a white solid (750 mg, 32%). LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=405.1; tR=2.68 min.

reactant | 4-(1-(2,2,2-trifluoroacetyl)pyrrolidin-2-yl)benzene-1-sulfonyl chloride | 5.8 mmol, 1.1 g | FC(C(=O)N1C(CCC1)C1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C12H11ClF3NO3S
reactant | 2-aminothiazole | 5.8 mmol, 0.58 g | NC=1SC=CN1 | C3H4N2S
solvent | pyridine | 4.0 mL | N1=CC=CC=C1 | C5H5N
product | N-(thiazol-2-yl)-4-(1-(2,2,2-trifluoroacetyl)pyrrolidin-2-yl)benzene-sulfonamide | 750 mg, 32% | S1C(=NC=C1)NS(=O)(=O)C1=CC=C(C=C1)C1N(CCC1)C(C(F)(F)F)=O | C15H14F3N3O3S2
